US06964961B2
A. 7-Chloro-thieno[3,2-b]pyridine-2-carboxylic acid (2-morpholin-4-yl-ethyl)-amide
The title compound was prepared from 2-morpholine-4-yl-ethylamine and lithium 7-chloro-thieno[3,2-b]pyridine-2-carboxylate by a procedure analogous to Example 1B. MS: 326/328 (MH+); HPLC Rf: 3.45 min.; HPLC purity 94%.

reactant | 2-morpholine-4-yl-ethylamine | N1(CCOCC1)CCN | C6H14N2O
reactant | lithium 7-chloro-thieno[3,2-b]pyridine-2-carboxylate | ClC1=C2C(=NC=C1)C=C(S2)C(=O)[O-].[Li+]
product | 7-Chloro-thieno[3,2-b]pyridine-2-carboxylic acid (2-morpholin-4-yl-ethyl)-amide | N1(CCOCC1)CCNC(=O)C1=CC2=NC=CC(=C2S1)Cl | C14H16ClN3O2S
